US07572820B2
C. 4-Chloro-1-{[5-(2-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-2-(trifluoromethyl)-1H-benzimidazole-5-carbonitrile
Synthesized as described Example 200C from [4-chloro-5-cyano-2-(trifluoromethyl)-1H-benzimidazol-1-yl]acetic acid and 2-pyridinecarbohydrazide: MS (ESI) m/z 405 (M+1).

reactant | [4-chloro-5-cyano-2-(trifluoromethyl)-1H-benzimidazol-1-yl]acetic acid | ClC1=C(C=CC=2N(C(=NC21)C(F)(F)F)CC(=O)O)C#N | C11H5ClF3N3O2
reactant | 2-pyridinecarbohydrazide | N1=C(C=CC=C1)C(=O)NN | C6H7N3O
product | 4-Chloro-1-{[5-(2-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-2-(trifluoromethyl)-1H-benzimidazole-5-carbonitrile | ClC1=C(C=CC=2N(C(=NC21)C(F)(F)F)CC=2OC(=NN2)C2=NC=CC=C2)C#N | C17H8ClF3N6O
